US04647573
(2) Methyl 4-butylamino-4-oxobutanoate
A solution of 4-butylamino-4-oxobutanoic acid (20 mmol) and concentrated sulfuric acid (1 ml) in MeOH (40 ml) is heated at reflux for 8 hours. The reaction is cooled to room temperature and saturated NaHCO3 is carefully added until CO2 gas no longer evolves. Most of the MeOH is removed in vacuo and the residue is partitioned between Et2O (100 ml) and H2O (40 ml). The water layer is re-extracted with Et2O (50 ml). The combined Et2O layers are washed with H2O (20 ml×2) and dried. Filtration and evaporation of solvent gives the title compound.

reactant | 4-butylamino-4-oxobutanoic acid | 20 mmol | C(CCC)NC(CCC(=O)O)=O | C8H15NO3
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | CO2 | C(=O)=O | CO2
solvent | MeOH | 40 ml | CO | CH4O
product | Methyl 4-butylamino-4-oxobutanoate | C(CCC)NC(CCC(=O)OC)=O | C9H17NO3
